### PR TITLE
[Merged by Bors] - chore: tidy various files

### PR DESCRIPTION
**Pull request by Ruben-VandeVelde**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/LinearAlgebra/Trace.lean [hunk 1]
```diff
@@ -85,11 +85,11 @@ theorem trace_eq_matrix_trace (f : M →ₗ[R] M) :
 
 theorem trace_mul_comm (f g : M →ₗ[R] M) : trace R M (f * g) = trace R M (g * f) := by
   classical
-  exact if H : ∃ s : Finset M, Nonempty (Basis s R M) then by
-    let ⟨s, ⟨b⟩⟩ := H
+  by_cases H : ∃ s : Finset M, Nonempty (Basis s R M)
```
Comment (grunweg) [inline Mathlib/LinearAlgebra/Trace.lean:88]: Much nicer indeed; thanks for cleaning up my PR

**Review by grunweg — COMMENTED** [review]
Thanks!
maintainer merge

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
